US08357679B2
B: 2-(4-((4-(4-Aminophenyl)piperazin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol
To a stirred mixture of 1,1,1,3,3,3-hexafluoro-2-(4-((4-(4-nitrophenyl)piperazin-1-yl)methyl)phenyl)propan-2-ol (17.26 mmol, 8 g) and iron (143 mmol, 8 g) in 2-propanol was added 2M hydrochloric acid. The reaction was refluxed for 3 hours. The reaction was filtered through celite washing with 2-propanol and concentrated under reduced pressure. Water and ethyl acetate was added. Solid potassium carbonate was added until the aqueous layer was basic. The organic phase was separated and the water layer was extracted with dichloromethane. The combined organic phases were combined, dried (sodium sulfate) and concentrated under reduced pressure. The crude material was chromatographed on silica eluting with ethyl acetate. The brown solid obtained was stirred in ether and filtered to give the title compound (3.8 g). MS (ESI) m/z 434.1 [M+H]+

reactant | 1,1,1,3,3,3-hexafluoro-2-(4-((4-(4-nitrophenyl)piperazin-1-yl)methyl)phenyl)propan-2-ol | 17.26 mmol, 8 g | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)CN1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])(F)F | C20H19F6N3O3
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | 2-propanol | CC(C)O | C3H8O
solvent | ether | CCOCC | C4H10O
catalyst | iron | 143 mmol, 8 g | [Fe] | Fe
product | 2-(4-((4-(4-Aminophenyl)piperazin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 3.8 g | NC1=CC=C(C=C1)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C20H21F6N3O
